US09079866B2
To a solution of 3-amino-6-(4-chloro-2-fluorophenyl)pyrazine-2-carbonitrile (0.290 g, 1.17 mmol) in 1,4-dioxane (12 mL), were added (4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.370 g, 1.46 mmol) and KOAc (0.343 g, 3.50 mmol). The reaction mixture sparged with N2 gas for 10 min, before adding chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (18 mg, 0.023 mmol) and then sparged for an additional 10 min with N2 gas. The reaction vessel was sealed, heated 3 hours at 80° Celsius and cooled to rt. The mixture was filtered through celite and the filter cake washed with EtOAc (30 mL). The filtrate was concentrated in vacuo onto silica gel and purified via FCC to give the product which was then triturated with hexanes to give 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile (0.25 g, 63%). MS (ESI): mass calcd. for C17H18BFN4O2, 340.15; m/z found 341.1 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.79 (d, J=1.8, 1H), 7.94 (m, 1H), 7.67 (dd, J=7.7, 1.1, 1H), 7.58 (dd, J=11.8, 1.1, 1H), 5.35 (s, 2H), 1.36 (s, 12H).

reactant | 3-amino-6-(4-chloro-2-fluorophenyl)pyrazine-2-carbonitrile | 1.17 mmol, 0.290 g | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)Cl)F)C#N | C11H6ClFN4
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.46 mmol, 0.370 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 3.50 mmol, 0.343 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | 0.023 mmol, 18 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | 0.25 g, 63% | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C17H18BFN4O2
